US09403801B2
6-(5-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)nicotinonitrile
To a solution of 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine (112.0 mg, 0.36 mmol) and 6-chloropyridine-3-carbonitrile (102.5 mg, 0.74 mmol) in a mixture of DCM (5 mL) and MeOH (5 mL) was added Et3N (200.7 mg, 1.98 mmol). The reaction mixture was stirred at 45° C. overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/40) to give the title compound as a beige solid (0.12 g, 81%).

reactant | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 0.36 mmol, 112.0 mg | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CNC2)C1 | C16H23N7
reactant | 6-chloropyridine-3-carbonitrile | 0.74 mmol, 102.5 mg | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | Et3N | 1.98 mmol, 200.7 mg | CCN(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | 6-(5-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)nicotinonitrile | 0.12 g, 81% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C2=NC=C(C#N)C=C2)C1 | C22H25N9
